US06448397B1
To a mixture of 2-[(8-chloro-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]acetonitrile (0.2838 g, 0.757 mmol) in dry THF (10 mL) is added borane-methylsulfide complex (0.22 mL, 2.27 mmol). The mixture is refluxed under an argon atmosphere at 82° C. for 18 h. The mixture is then cooled to room temperature and methanol is slowly added until gas evolution ceased. The solvents are removed under vacuum and methanol (5 mL) is added and again removed. The residue is dissolved in methanol (10 mL), CH2C2 (5 mL), and conc. HCl (3 mL) and heated at 60° C. for 1 h. The mixture is neutralized with aqueous potassium carbonate and partitioned between water and CH2C2. The organic layer is washed with water, dried over magnesium sulfate and concentrated. Column chromatography (50 g silica gel) using CH3OH/CH2Cl2 (4/96) as eluent gave 0.080g (28%) of 2-[(8-chloro-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]-1-ethanamine; mp 127-128° C.

reactant | 2-[(8-chloro-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]acetonitrile | 0.757 mmol, 0.2838 g | ClC=1C=CC=2N3C4=C(C=CC=C4C2C1OCC#N)OCC3C3=CC=CC=C3 | C22H15ClN2O2
reactant | methanol | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[(8-chloro-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]-1-ethanamine | 0.080g, 28% | ClC=1C=CC=2N3C4=C(C=CC=C4C2C1OCCN)OCC3C3=CC=CC=C3 | C22H19ClN2O2
